US07250423B2
Synthesis of 2,3,3a,4,5,9b-hexahydro-4-(3-hydroxypropyl)-8-phenylamino-furano[3,2-c]quinoline (Formula 3-2)
The mixture of 4-(N-phenylamino)-aniline (2 mmol), 2-hydroxy-tetrahydrofuran (6 mmol) and InCl3 (0.2-0.4 mmol) in water (5 mL) was stirred at room temperature. The reaction was monitored by TLC. After 24 h stirring at room temperature, the reaction mixture was extracted with ethyl ether (3×20 mL). Removal of solvent and flash column chromatography gave 1,2,3,4-tetrahydroquinoline derivatives in 86% yield (cis:trans=46:54).

reactant | 4-(N-phenylamino)-aniline | 2 mmol | C1(=CC=CC=C1)NC1=CC=C(N)C=C1 | C12H12N2
reactant | 2-hydroxy-tetrahydrofuran | 6 mmol | OC1OCCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 2,3,3a,4,5,9b-hexahydro-4-(3-hydroxypropyl)-8-phenylamino-furano[3,2-c]quinoline | 86% yield | OCCCC1NC=2C=CC(=CC2C2C1CCO2)NC2=CC=CC=C2 | C20H24N2O2
